US08084469B2
Methyl 5-[4-(difluoromethoxy)phenyl]-1-[(1-oxidothiomorpholin-4-yl)carbonyl]piperidine-3-carboxylate [cis/trans isomer mixture]
2.2 g (7.7 mmol) of methyl 5-[4-(difluoromethoxy)phenyl]piperidine-3-carboxylate were dissolved in 14 ml of N-methyl-2-pyrrolidone, and admixed with 4.0 ml (3.0 g, 23.0 mmol) of N,N-diisopropylethylamine and 3.3 g (11.5 mmol) of 4-nitrophenyl thiomorpholine-4-carboxylate 1-oxide. The reaction mixture was converted in the microwave at 180° C. for seven minutes. Subsequently, water and ethyl acetate were added, and the aqueous phase was removed and extracted repeatedly with ethyl acetate. The combined organic extracts were washed with water and saturated aqueous sodium chloride solution, dried over sodium sulphate, filtered and concentrated under reduced pressure. The residue was purified by means of preparative HPLC. Yield: 2.2 g (59% of theory)

reactant | methyl 5-[4-(difluoromethoxy)phenyl]piperidine-3-carboxylate | 7.7 mmol, 2.2 g | FC(OC1=CC=C(C=C1)C1CC(CNC1)C(=O)OC)F | C14H17F2NO3
reactant | N,N-diisopropylethylamine | 23.0 mmol, 4.0 ml, 3.0 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-nitrophenyl thiomorpholine-4-carboxylate 1-oxide | 11.5 mmol, 3.3 g | N1(CCS(CC1)=O)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C11H12N2O5S
reactant | water | O | H2O
solvent | N-methyl-2-pyrrolidone | 14 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 5-[4-(difluoromethoxy)phenyl]-1-[(1-oxidothiomorpholin-4-yl)carbonyl]piperidine-3-carboxylate | FC(OC1=CC=C(C=C1)C1CC(CN(C1)C(=O)N1CCS(CC1)=O)C(=O)OC)F | C19H24F2N2O5S
